US07910592B2
Step C: (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(3-bromo-6-chloropyridin-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one
To a solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one (4.55 g, 14.5 mmol) in THF (165 mL) was added sodium hydride (60% dispersion in mineral oil) (968 mg, 24.2 mmol) as a powder. The mixture was stirred at room temperature for 20 min. A solution of 3-bromo-2-(bromomethyl)-6-chloropyridine (2.5 g) in THF (30 mL) was added. The resulting mixture was stirred overnight at room temperature. The reaction was quenched with saturated NH4Cl and extracted with EtOAc (3×). The combined organic layers were washed with brine (1×), dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography (Si, hexanes/EtOAc) to recover the unreacted 3-bromo-6-chloro-2-methylpyridine and to afford the title compound (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(3-bromo-6-chloropyridin-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one. LCMS calc.=517.0; found=517.0 (M+1)+. 1H NMR (500 MHz, CDCl3) δ 7.92 (s, 1H); 7.84 (d, J=8.2 Hz, 1H); 7.83 (s, 2H); 7.21 (d, J=8.2 Hz, 1H); 5.89 (d, J=8.3 Hz, 1H); 5.04 (d, J=17.2 Hz, 1H); 4.47-4.41 (m, 1H); 4.35 (d, J=17.2 Hz, 1H); 0.83 (d, J=6.6 Hz, 3H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one | 14.5 mmol, 4.55 g | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](NC(O1)=O)C)(F)F | C12H9F6NO2
reactant | sodium hydride | 24.2 mmol, 968 mg | [H-].[Na+]
reactant | 3-bromo-2-(bromomethyl)-6-chloropyridine | 2.5 g | BrC=1C(=NC(=CC1)Cl)CBr | C6H4Br2ClN
solvent | THF | 165 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(3-bromo-6-chloropyridin-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=NC(=CC=C1Br)Cl)C)(F)F | C18H12BrClF6N2O2
